US06002008
4-(4-Chloro-2-fluorophenylamino)-7-hydroxy-3-quinolinecarbonitrile
In the manner of Example 302 reaction of 4-(4-chloro-2-fluorophenylamino)-7-methoxy-3-quinolinecarbonitrile with pyridine hydrochloride at 210° C. gave the title compound, mp 295-305° C.

reactant | 4-(4-chloro-2-fluorophenylamino)-7-methoxy-3-quinolinecarbonitrile | ClC1=CC(=C(C=C1)NC1=C(C=NC2=CC(=CC=C12)OC)C#N)F | C17H11ClFN3O
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 4-(4-Chloro-2-fluorophenylamino)-7-hydroxy-3-quinolinecarbonitrile | ClC1=CC(=C(C=C1)NC1=C(C=NC2=CC(=CC=C12)O)C#N)F | C16H9ClFN3O
